US03954757
A solution of 12.7 g of iodine and 25 g of potassium iodide in 100 ml of water is added dropwise to a mixture of 7.25 g of 1,2-dimethylindole in 60 ml methanol and 5.8 g of 1-methyl-2-imidazolidinethione in 100 ml methanol. The reaction mixture is stirred for 2 hours at room temperature. The crystalline precipitate formed was filtered and recrystallized from a mixture of methanol, ethyl acetate and ether to yield 1,2 -dimethyl-3-(1-methyl-2-imidazolin-2-ylthio)-indole hydriodide which melts at 250°-251° (with decomposition).

reactant | iodine | 12.7 g | II | I2
reactant | potassium iodide | 25 g | [I-].[K+]
reactant | 1,2-dimethylindole | 7.25 g | CN1C(=CC2=CC=CC=C12)C | C10H11N
reactant | 1-methyl-2-imidazolidinethione | 5.8 g | CN1C(NCC1)=S | C4H8N2S
solvent | water | 100 ml | O | H2O
solvent | methanol | 60 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 1,2 -dimethyl-3-(1-methyl-2-imidazolin-2-ylthio)-indole hydriodide | I.CN1C(=C(C2=CC=CC=C12)SC=1N(CCN1)C)C | InChI=1S/C14H17N3S.HI/c1-10-13(18-14-15-8-9-16(14)2)11-6-4-5-7-12(11)17(10)3;/h4-7H,8-9H2,1-3H3;1H
